US07402592B2
Ethyl 6-hydroxy-3-azabicyclo[3.3.1]nonane-3-carboxylate
A solution of ethyl 3-azabicyclo[3.3.1]non-6-ene-3-carboxylate (2.50 g, 12.8 mmol) in 75 mL of THF was cooled in an ice bath and borane-THF (1M in THF, 19 mL, 19 mmol) was added drop-wise. The reaction was stirred at about 10(C for 3.5 h, then cooled in ice bath. A solution of sodium hydroxide (2.4 g, 60 mmol) in 10 mL water was added drop-wise, followed immediately by an additional 50 mL of THF and 10 mL of water. Hydrogen peroxide (30% aqueous, 8.5 g, 75 mmol) was then added, and the mixture stirred overnight at ambient temperature. The mixture was extracted with ether (2×50 mL), and the combined extracts were washed with water and brine (25 mL each). Drying over anhydrous magnesium sulfate, followed by filtration and concentration under reduced pressure, gave the product as a colorless, viscous oil (2.2 g, 80%).

reactant | ethyl 3-azabicyclo[3.3.1]non-6-ene-3-carboxylate | 12.8 mmol, 2.50 g | C12CN(CC(C=CC1)C2)C(=O)OCC | C11H17NO2
reactant | borane THF | 19 mmol, 1M, 19 mL | B.C1CCOC1
reactant | sodium hydroxide | 60 mmol, 2.4 g | [OH-].[Na+]
reactant | Hydrogen peroxide | 75 mmol, 8.5 g | OO | H2O2
solvent | THF | 75 mL | C1CCOC1 | C4H8O
solvent | water | 10 mL | O | H2O
solvent | water | 10 mL | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | Ethyl 6-hydroxy-3-azabicyclo[3.3.1]nonane-3-carboxylate | 2.2 g, 80% | OC1C2CN(CC(CC1)C2)C(=O)OCC | C11H19NO3
